US06093718
A solution of 4,6-dichloropyrimidine (8.60 g), 1-[1-(tert-butoxycarbonyl)-piperazin-4-ylcarbonyl]piperazine 15.64 g) and triethylamine (21.95 ml) in ethanol (300 ml) was stirred at room temperature for 30 minutes. Solvent was evaporated and the residue dissolved in dichloromethane and washed with water, saturated aqueous sodium chloride solution, dried (Na2SO4) and evaporated to give, as a pale yellow solid 1-[1-(tert-butoxycarbonyl)-piperazin-4-ylcarbonyl]-4-(6-chloro-pyrimidin-4-yl) piperazine (21.20 g).

reactant | 4,6-dichloropyrimidine | 8.60 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 1-[1-(tert-butoxycarbonyl)-piperazin-4-ylcarbonyl]piperazine | 15.64 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)N1CCNCC1 | C14H26N4O3
reactant | triethylamine | 21.95 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-[1-(tert-butoxycarbonyl)-piperazin-4-ylcarbonyl]-4-(6-chloro-pyrimidin-4-yl) piperazine | 21.20 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C1=NC=NC(=C1)Cl | C18H27ClN6O3
